### PR TITLE
Upstreaming `bit`, `div2`, `bodd` and establishing binary recursion.

### PR DESCRIPTION
**Pull request by wrenna-robson**
This PR aims to produce a cleanly structured characterisation of `bodd`, `div2` and `bit`, and use them to define a form of binary induction that is clean and easy to work with.

### CODE REVIEW

File: Batteries/Data/Nat/Bitwise/Defs.lean [hunk 1]
```diff
@@ -0,0 +1,63 @@
+/-
+Copyright (c) YEAR NAME. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: NAME
+-/
```
Comment (fgdorais) [inline Batteries/Data/Nat/Bitwise/Defs.lean]: I think `NAME` should be your name and `YEAR` should be 2026.

Comment (wrenna-robson) [reply Batteries/Data/Nat/Bitwise/Defs.lean]: Yes that seems reasonable as a correction ;) - my bad, I forgot to go back and add these.

File: Batteries/Data/Nat/Bitwise/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,501 @@
...
+@[simp] theorem bit_eq_zero_iff : n.bit b = 0 ↔ n = 0 ∧ b = false := bit_inj n 0 b false
+theorem bit_ne_zero_iff : n.bit b ≠ 0 ↔ n ≠ 0 ∨ b = true := by grind [bit_eq_zero_iff]
+
+@[grind =>]
+theorem ne_zero_of_bit_ne_zero (hn : n.bit b = 0) : n = 0 := by grind [bit_eq_zero_iff]
+
+@[grind =>]
+theorem bit_ne_zero_of_ne_zero (hn : n ≠ 0) : n.bit b ≠ 0 := by grind [bit_eq_zero_iff]
+
+@[simp, grind =>]
```
Comment (AlexeyMilovanov) [inline Batteries/Data/Nat/Bitwise/Basic.lean]:
```suggestion
@[grind =>]

File: Batteries/Data/Nat/Bitwise/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,501 @@
...
+@[simp, grind =] theorem size_add_two : size (n + 2) = size (n.div2 + 1) + 1 := by simp [size]
+
+@[grind =]
+theorem size_succ : size (n + 1) = if n = 0 then 1 else size (n.div2 + n.bodd.toNat) + 1 :=
+  binaryElim_succ
+
+@[grind =]
+theorem size_bit : size (n.bit b) = if n = 0 then b.toNat else size n + 1 := binaryElim_bit
+
+@[simp] theorem size_bit_zero : size (bit b 0) = b.toNat := by grind
```
Comment (AlexeyMilovanov) [inline Batteries/Data/Nat/Bitwise/Basic.lean]:
```suggestion
theorem size_bit_zero : size (bit b 0) = b.toNat := by grind
```

File: Batteries/Data/Nat/Bitwise/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,501 @@
...
+
+@[grind =]
+theorem bitsList_succ : bitsList (n + 1) = if n = 0 then [true] else
+  (!n.bodd) :: bitsList (n.div2 + n.bodd.toNat) := binaryElim_succ
+
+@[grind =]
+theorem bitsList_bit : bitsList (n.bit b) =
+    if n = 0 then bif b then [true] else [] else b :: bitsList n := binaryElim_bit
+
+@[simp] theorem bitsList_bit_zero : bitsList (bit b 0) = bif b then [true] else [] := by grind
```
Comment (AlexeyMilovanov) [inline Batteries/Data/Nat/Bitwise/Basic.lean]:
```suggestion
theorem bitsList_bit_zero : bitsList (bit b 0) = bif b then [true] else [] := by grind
```

File: Batteries/Data/Nat/Bitwise/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,501 @@
...
+    grind
+
+@[grind =] theorem bitsList_ofBitsList_of_forall_getLast_eq_true {bs : List Bool}
+    (hbs : ∀ (hbs : bs ≠ []), bs.getLast hbs = true) : bitsList (ofBitsList bs) = bs := by
+  induction bs <;> grind
+
+/-! ### leastBitsList -/
+
+@[simp, grind =] theorem leastBitsList_zero : leastBitsList 0 = none := by simp [leastBitsList]
+@[simp, grind =] theorem leastBitsList_one : leastBitsList 1 = some [] := by simp [leastBitsList]
```
Comment (AlexeyMilovanov) [inline Batteries/Data/Nat/Bitwise/Basic.lean]:
```suggestion
@[grind =] theorem leastBitsList_one : leastBitsList 1 = some [] := by simp [leastBitsList]
```

File: Batteries/Data/Nat/Bitwise/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,501 @@
...
+
+theorem bitsList_eq : bitsList n = (leastBitsList n).elim [] (· ++ [true]) := by
+  grind [List.dropLast_concat_getLast]
+
+@[grind =]
+theorem leastBitsList_bit : leastBitsList (n.bit b) =
+    if n = 0 then bif b then some [] else none else some (b :: (bitsList n).dropLast) := by
+  grind [cases Nat]
+
+@[simp] theorem leastBitsList_bit_zero :
```
Comment (AlexeyMilovanov) [inline Batteries/Data/Nat/Bitwise/Basic.lean]:
```suggestion
 theorem leastBitsList_bit_zero :
```

File: Batteries/Data/Nat/Bitwise/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,501 @@
...
+    leastBitsList (bit b 0) = bif b then some [] else none := by grind
+
+@[simp] theorem leastBitsList_bit_true : leastBitsList (bit true n) =
```
Comment (AlexeyMilovanov) [inline Batteries/Data/Nat/Bitwise/Basic.lean]:
```suggestion
theorem leastBitsList_bit_true : leastBitsList (bit true n) =
```

**Review by AlexeyMilovanov — COMMENTED** [review]
The CI is currently failing, but I verified locally that these suggestions fix it. I think it's just the strict `simpNF` linter catching these 6 lemmas. With `@[simp]` removed here, both `lake build` and `lake lint` pass perfectly

File: Batteries/Data/Nat/Bitwise/Basic.lean (hunk 6 above)
Comment (wrenna-robson) [reply Batteries/Data/Nat/Bitwise/Basic.lean]: Thanks for this.

File: Batteries/Data/Nat/Bitwise/Lemmas.lean [hunk 8]
```diff
@@ -1,11 +1,13 @@
...
-Copyright (c) 2025 François G. Dorais. All rights reserved.
+Copyright (c) 2025 François G. Dorais, Wrenna Robson. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
-Authors: François G. Dorais
+Authors: François G. Dorais, Wrenna Robson
 -/
 
 module
 
+public import Batteries.Data.Nat.Bitwise.Defs
```
Comment (AlexeyMilovanov) [inline Batteries/Data/Nat/Bitwise/Lemmas.lean]:
```suggestion
public import Batteries.Data.Nat.Bitwise.Basic
```

**Review by AlexeyMilovanov — COMMENTED** [review]
This import needs to be updated after the file renaming to fix the build error.

**Comment by linesthatinterlace** [comment]
Slowly working on Mathlib fixes. I just want to flag that a tail-recursive version of bitElim is possible:
```
@[specialize]
def bitElim {α : Sort u} (zero one : α) (bit : Bool → α → α) (n : Nat) : α := go id n
where @[specialize] go (k : α → α) : Nat → α
    | 0 => k zero | 1 => k one | n + 2 => go (k ∘ bit n.isOdd) (n.div2Impl + 1)
  termination_by n => n decreasing_by grind [div2Impl, shiftRight_le]
  ```
  
  I don't know if this is preferable to the direct version.
  ```
  @[specialize]
def bitElim {α : Sort u} (zero one : α) (bit : Bool → α → α) : Nat → α
  | 0 => zero | 1 => one | n + 2 => bit n.isOdd <| (n.div2Impl + 1).bitElim zero one bit
  termination_by n => n decreasing_by grind [div2Impl, shiftRight_le]
```

**Comment by fgdorais** [comment]
The first `@[specialize]` should be `@[inline]`. Also `α` should be called `motive`.

**Comment by linesthatinterlace** [comment]
Using motive here isn't consistent with, say, Option.elim.

**Comment by fgdorais** [comment]
It should also be `elab_as_elim`. Anything that is `elab_as_elim` should ideally have a `motive` argument.

**Comment by linesthatinterlace** [comment]
Right, except I get 
```
unexpected eliminator resulting type
  motive
```

With that - because `bitElim` does NOT have the type of an eliminator! I am really really sorry but I do think you are not right about this. Sorry.

**Comment by fgdorais** [comment]
That's right! All fine then.

File: Batteries/Data/Nat/Bitwise/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,130 @@
...
+ def divTwoRec {motive : Nat → Sort u} (zero : motive 0) (one : motive 1)
+    (add_two : ∀ n, motive (n.divTwo + 1) → motive (n + 2)) : ∀ n, motive n
+  | 0 => zero | 1 => one | n + 2 => add_two n <| (n.divTwo + 1).divTwoRec zero one add_two
+  termination_by n => n decreasing_by fun_induction divTwo <;> grind
+
+/-- Iterates over the binary digits of a natural number, from least significant to most significant.
+    Base cases are provided for `0`, `1`. All other numbers are folded via their binary digits. -/
+@[inline]
+def bitElim {α : Sort u} (zero one : α) (bit : Bool → α → α) (n : Nat) : α := go id n where
+  @[specialize] go (k : α → α) : Nat → α
```
Comment (AlexeyMilovanov) [inline Batteries/Data/Nat/Bitwise/Basic.lean]:
```suggestion
  /-- Auxiliary tail-recursive implementation for `bitElim`. -/
  @[specialize] go (k : α → α) : Nat → α

**Review by AlexeyMilovanov — COMMENTED** [review]
The CI is failing on `lake lint` because the `docBlame` linter requires a docstring for the internal `go` function.

File: Batteries/Data/Nat/Bitwise/Basic.lean (hunk 9 above)
Comment (wrenna-robson) [reply Batteries/Data/Nat/Bitwise/Basic.lean]: Oh I thought I fixed this already. Thanks!

**Comment by linesthatinterlace** [comment]
I am really not sure if the tail-recursion was actually adding much.

**Comment by wrenna-robson** [comment]
The more I work on this, the more I am convinced that a) this work is useful and necessary, but also b) there are fundamental choices made in core that I think I disagree with which make this very hard.
